US08629158B2
a) 4-((5-Fluoropyridin-2-yl)methoxy)pyridine 1-oxide (CAS Registry Number 1173155-63-9) (WO 2009/089482 to Guzzo et al., which is hereby incorporated by reference in its entirety)
5-Fluoro-2-pyridylbenzylalcohol (3.00 g, 23.6 mmol) was dissolved in DMF (20 mL), and NaH (60% weight dispersion in mineral oil, 0.92 g, 23 mmol) was added. After stirring for 30 minutes, 4-chloropyridine-N-oxide (2.03 g, 15.7 mmol) was added, and the reaction mixture was heated for 1 h at 120° C. Upon cooling, the mixture was diluted with methylene chloride and washed with 5% lithium chloride solution (5×), dried and concentrated. Purification by flash column chromatography (40 g ISCO column eluting with methylene chloride and a methanol/ammonia mixture (10:1); gradient 100% methylene chloride to 90% methylene chloride over 30 min at 40 mL/min) provided the title compound (1.76 g, 50%) as a tan solid: 1H NMR (300 MHz, CDCl3) δ 8.48 (s, 1H), 8.12 (d, J=7.7 Hz, 2H), 7.48-7.46 (m, 2H), 6.90 (d, J=7.7 Hz, 2H), 5.20 (s, 2H).

reactant | 5-Fluoro-2-pyridylbenzylalcohol | 23.6 mmol, 3.00 g | FC=1C=CC(=NC1)C(C1=CC=CC=C1)O | C12H10FNO
reactant | NaH | 23 mmol, 0.92 g | [H-].[Na+]
reactant | 4-chloropyridine-N-oxide | 15.7 mmol, 2.03 g | ClC1=CC=[N+](C=C1)[O-] | C5H4ClNO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-((5-Fluoropyridin-2-yl)methoxy)pyridine 1-oxide | 1.76 g, 50% | FC=1C=CC(=NC1)COC1=CC=[N+](C=C1)[O-] | C11H9FN2O2
